US08445530B2
2-(3-Acetoxy-4-methoxy-benzoylamino)-indane-2-carboxylic acid methyl ester
3-Acetoxy-4-methoxy-benzoic acid (5.00 g, 23.8 mmol) was dissolved in DCM (50 ml). DMF (167 mg, 2.38 mmol) and oxalyl chloride (35.6 ml of a 2 M solution in DCM) were added at room temperature. The mixture was stirred for 20 min, evaporated to dryness in vacuo, the residue redissolved in DCM and evaporated again. The residue was dissolved in DCM and slowly added to a stirred mixture of 2-amino-indane-2-carboxylic acid methyl ester hydrochloride (5.42 g, 23.8 mmol), EA and an excess of a saturated aqueous sodium hydrogencarbonate solution. After 90 min the organic layer was separated and washed with a saturated sodium hydrogencarbonate solution, 2 M hydrochloric acid and a saturated sodium chloride solution, dried over sodium sulfate, filtered and evaporated to dryness to give 8.95 g of the title compound.

reactant | 3-Acetoxy-4-methoxy-benzoic acid | 23.8 mmol, 5.00 g | C(C)(=O)OC=1C=C(C(=O)O)C=CC1OC | C10H10O5
reactant | DMF | 2.38 mmol, 167 mg | CN(C)C=O | C3H7NO
reactant | oxalyl chloride | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 2-amino-indane-2-carboxylic acid methyl ester hydrochloride | 23.8 mmol, 5.42 g | Cl.COC(=O)C1(CC2=CC=CC=C2C1)N
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | DCM | 50 ml | C(Cl)Cl | CH2Cl2
solvent | EA | CC(OCC)=O | C4H8O2
product | 2-(3-Acetoxy-4-methoxy-benzoylamino)-indane-2-carboxylic acid methyl ester | 8.95 g | COC(=O)C1(CC2=CC=CC=C2C1)NC(C1=CC(=C(C=C1)OC)OC(C)=O)=O | C21H21NO6
